US07067515B2
Methyl benzofuro[3,2-c]pyridine-3-carboxylate (2.02 g, 8.89 mmol) is dissolved in MeOH (50 ml) and water (10 ml). 2M NaOH (5.3 ml, 10.67 mmol) is added dropwise, and the reaction stirred overnight at rt. When the reaction is complete by TLC, the volatiles are removed in vacuo. The solid residue is suspended in water (40 ml) and the pH is adjusted to 3 with concentrated HCl. The white slurry is filtered, and the cake is dried first in a stream of air and then in a vacuum oven overnight, affording 1.84 g (97%) of benzofuro[3,2-c]pyridine-3-carboxylic acid as a pale yellow solid. 1H NMR (DMSO-d6) δ 7.56 (t, J=8 Hz), 7.68 (t, J=7 Hz), 7.877 (d, J=8 Hz), 8.38 (m), 9.51 ppm.

reactant | Methyl benzofuro[3,2-c]pyridine-3-carboxylate | 8.89 mmol, 2.02 g | C1=NC(=CC2=C1C1=C(O2)C=CC=C1)C(=O)OC | C13H9NO3
reactant | NaOH | 10.67 mmol, 2M, 5.3 ml | [OH-].[Na+]
solvent | MeOH | 50 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | benzofuro[3,2-c]pyridine-3-carboxylic acid | 1.84 g, 97% | C1=NC(=CC2=C1C1=C(O2)C=CC=C1)C(=O)O | C12H7NO3
